US04206219
Under anhydrous conditions at 0° C. a solution of 8-oxo-2,2,5,7-tetramethyl-7-(hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane (60 mg) in 0.6 ml ether is treated with powdered potassium hydroxide (19 mg). After a period of 15 minutes, o-nitrobenzyl chloroformate (65 mg) is added to the reaction mixture. Stirring is continued at 25° C. for an additional 15 hours. The mixture is partitioned between 1 M pH 7 phosphate buffer and more ether. The ether phase is washed with water and brine, dried over magnesium sulfate and filtered. Evaporation of the filtrate under reduced pressure gives a colorless oil. Purification by preparation thick-layer chromatography on silica gel developing with 1:9 ethylacetate/benzene gives 8-oxo-2,2,5,7-tetramethyl-7-(o-nitrobenzylcarbonyldioxymethyl)-3-oxa-1-azabicyclo-[4.2.0]octane as a mixture of diastereomers.

reactant | 8-oxo-2,2,5,7-tetramethyl-7-(hydroxymethyl)-3-oxa-1-azabicyclo[4.2.0]octane | 60 mg | O=C1C(C2C(COC(N12)(C)C)C)(CO)C | C11H19NO3
reactant | potassium hydroxide | 19 mg | [OH-].[K+]
reactant | o-nitrobenzyl chloroformate | 65 mg | ClC(=O)OCC1=C(C=CC=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | ether | 0.6 ml | CCOCC | C4H10O
product | 8-oxo-2,2,5,7-tetramethyl-7-(o-nitrobenzylcarbonyldioxymethyl)-3-oxa-1-azabicyclo-[4.2.0]octane | O=C1C(C2C(COC(N12)(C)C)C)(COOC(=O)CC1=C(C=CC=C1)[N+](=O)[O-])C | C19H24N2O7
